US04535086
18.2 g of 4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thiophene and 7.4 g of acetyl chloride are dissolved in 200 ml of benzene and the solution is cooled to 0° C. At this temperature there are slowly added dropwise thereto 24.4 g of tin tetrachloride. After stirring at room temperature for 2.5 hours, the mixture is again cooled to 0° C. and a mixture of 9.3 ml of concentrated hydrochloric acid and 36.4 ml of water is added dropwise thereto. The mixture is extracted with ether, the organic phase is washed once with water, dried, evaporated and distilled in a high vacuum. There are obtained 21.7 g of 2-acetyl-4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thiophene as a colorless liquid, b.p. 108°-115° C./0.05 mm, which can be crystallized from hexane, m.p. 53°-55° C.

reactant | 4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thiophene | 18.2 g | CC1(CCC(C=2SC=CC21)(C)C)C | C12H18S
reactant | acetyl chloride | 7.4 g | C(C)(=O)Cl | C2H3ClO
reactant | tin tetrachloride | 24.4 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | hydrochloric acid | 9.3 ml | Cl | ClH
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | water | 36.4 ml | O | H2O
product | 2-acetyl-4,5,6,7-tetrahydro-4,4,7,7-tetramethylbenzo[b]thiophene | 21.7 g | C(C)(=O)C1=CC2=C(S1)C(CCC2(C)C)(C)C | C14H20OS
